US08802679B2
Under ice-cooling, 6-(4-{5-[3-({[N-(tert-butoxycarbonyl)glycyl](methyl)amino}methyl)phenyl]pyrimidin-2-yl}piperazin-1-yl)-5-chloronicotinic acid (303 mg), THF (9 ml), and TEA (65 mg) were mixed, and isobutyl chlorocarbonate (77 mg) was added thereto, followed by stirring at the same temperature for 1.5 hours. The reaction mixture was cooled to −78° C., and a solution of sodium borohydride (77 mg) in water (1.1 ml) was added thereto, followed by warming to 0° C. and stirring for 30 minutes. To the reaction mixture was added water, followed by extraction with EtOAc, and the organic layer was washed with water and saturated brine, and dried over Na2SO4. Under reduced pressure, the solvent was evaporated, and the obtained residue was purified by silica gel column chromatography (NH silica) to obtain tert-butyl (2-{[3-(2-{4-[3-chloro-5-(hydroxymethyl)pyridin-2-yl]piperazin-1-yl}pyrimidin-5-yl)benzyl](methyl)amino}-2-oxoethyl)carbamate (296 mg).

reactant | 6-(4-{5-[3-({[N-(tert-butoxycarbonyl)glycyl](methyl)amino}methyl)phenyl]pyrimidin-2-yl}piperazin-1-yl)-5-chloronicotinic acid | 303 mg | C(C)(C)(C)OC(=O)NCC(=O)N(C)CC=1C=C(C=CC1)C=1C=NC(=NC1)N1CCN(CC1)C1=NC=C(C(=O)O)C=C1Cl | C29H34ClN7O5
reactant | THF | 9 ml | C1CCOC1 | C4H8O
reactant | isobutyl chlorocarbonate | 77 mg | C(OCC(C)C)(=O)Cl | C5H9ClO2
reactant | sodium borohydride | 77 mg | [BH4-].[Na+]
solvent | water | 1.1 ml | O | H2O
product | tert-butyl (2-{[3-(2-{4-[3-chloro-5-(hydroxymethyl)pyridin-2-yl]piperazin-1-yl}pyrimidin-5-yl)benzyl](methyl)amino}-2-oxoethyl)carbamate | 296 mg | ClC=1C(=NC=C(C1)CO)N1CCN(CC1)C1=NC=C(C=N1)C=1C=C(CN(C(CNC(OC(C)(C)C)=O)=O)C)C=CC1 | C29H36ClN7O4
